US04692460
To a solution of 2.29 g (0.0061 moles) ethyl 5,6-dihydro-2-methyl-3-(4-(methylsulfinyl) benzoyl)-4H-cyclopenta[b]thiophene-6-carboxylate, the product of Example 1a. in 40 ml of methanol at reflux was added 9.1 ml (0.0091 moles) of 1N sodium hydroxide dropwise. After 20 min. of refluxing the mixture was cooled in an ice bath and poured into 3N hydrogen chloridede dropwise. After 20 min. of refluxing the mixture was cooled in an ice bath and poured into 3N hydrogen chloride and ice. Solid 5,6-dihydro-2-methyl-3-[4-(methylsulfinyl) benzoyl]-4H-cyclopenta[b]thiophene-6-carboxylic acid was collected. The filtrate was extracted with chloroform, washed with brine and dried (MgSO4). Evaporation of the solvent gave solid acid which was recrystallized from acetonitrile. The two batches of solid were combined and recrystallized from acetonitrile to give 1.45 g of 5,6-dihydro-2-methyl-3-(4(methylsulfinyl)benzoyl)-4H-cyclopenta[b]thiophene-6-carboxylic acid, mp 209-213° C.

reactant | ethyl 5,6-dihydro-2-methyl-3-(4-(methylsulfinyl) benzoyl)-4H-cyclopenta[b]thiophene-6-carboxylate | 0.0061 moles, 2.29 g | CC1=C(C2=C(S1)C(CC2)C(=O)OCC)C(C2=CC=C(C=C2)S(=O)C)=O | C19H20O4S2
reactant | sodium hydroxide | 0.0091 moles, 1N, 9.1 ml | [OH-].[Na+]
reactant | hydrogen | 3N | [H][H] | H2
reactant | hydrogen chloride | 3N | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | 5,6-dihydro-2-methyl-3-(4(methylsulfinyl)benzoyl)-4H-cyclopenta[b]thiophene-6-carboxylic acid | 1.45 g | CC1=C(C2=C(S1)C(CC2)C(=O)O)C(C2=CC=C(C=C2)S(=O)C)=O | C17H16O4S2
